US07619086B2
Step 2: 4-(1-Amino-1-methylethyl)-1-(4-fluorobenzyl)piperidine-2-one
To a solution of 1-(4-fluorobenzyl)-4-(1-methyl-1-nitroethyl)piperidin-2-one (1.05 g, 3.57 mmol) in degassed ethanol (75 mL) was added Raney Nickel (2 g of a 50% by weight slurry in water). The reaction mixture was shaken under 55 psi of hydrogen fro 4 hours. The reaction mixture was filtered through a bed a celite, then concentrated under vacuum to give an oil that solidified on standing. The solid was triturated in ether and collected by filtration to give the title compound. 1H NMR (400 MHz, CDCl3) δ 7.22 (m, 2H), 7.02 (t, J=8.6 Hz, 2H), 4.65 (d, J=14.5 Hz, 1H), 4.44 (d, J=14.6 Hz, 1H), 3.26 (m, 2H), 2.60 (d, J=5 Hz, 1H), 2.25 (m, 1H), 1.97 (d, J=11.5 Hz, 1H), 1.75 (m, 1H), 1.44 (m, 1H), 1.11 (d, J=9 Hz, 6H) ppm. ES MS M+1=265.

reactant | 1-(4-fluorobenzyl)-4-(1-methyl-1-nitroethyl)piperidin-2-one | 3.57 mmol, 1.05 g | FC1=CC=C(CN2C(CC(CC2)C(C)([N+](=O)[O-])C)=O)C=C1 | C15H19FN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-(1-Amino-1-methylethyl)-1-(4-fluorobenzyl)piperidine-2-one | NC(C)(C)C1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C15H21FN2O
